US07053089B2
C-{1-[2-(4-Fluoro-phenyl)-ethanesulfonyl]-piperidin-4-yl}-methylamine
A mixture of 0.4 g of {1-[2-(4-fluoro-phenyl)-ethanesulfonyl]-piperidin-4-ylmethyl}-carbamic acid tert-butyl ester and 5 mL of 4N HCl in dioxane was stirred at room temperature for 3 h, then diluted with 50 mL of chloroform, washed with 50 mL of saturated sodium carbonate, dried over magnesium sulfate and concentrated to dryness under reduced pressure. The product was a white solid:

reactant | {1-[2-(4-fluoro-phenyl)-ethanesulfonyl]-piperidin-4-ylmethyl}-carbamic acid tert-butyl ester | 0.4 g | C(C)(C)(C)OC(NCC1CCN(CC1)S(=O)(=O)CCC1=CC=C(C=C1)F)=O | C19H29FN2O4S
reactant | HCl | 4N, 5 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | C-{1-[2-(4-Fluoro-phenyl)-ethanesulfonyl]-piperidin-4-yl}-methylamine | FC1=CC=C(C=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H21FN2O2S
